.include 4_input_NAND.sub
.subckt 4_input_AND node_a node_b node_c node_d node_out_final vdd gnd

X1 node_a node_b node_c node_d node_out vdd gnd 4_input_NAND
X5 node_out node_out_final vdd gnd NOT

C1 node_out gnd 100f

.ends 4_input_AND