.include 4_input_NOR.sub
.include NOT.sub
.subckt 4_input_OR node_a node_b node_c node_d node_out_final vdd gnd

X1 node_a node_b node_c node_d node_out vdd gnd 4_input_NOR
X5 node_out node_out_final vdd gnd NOT

C1 node_out gnd 100f

.ends 3_input_OR