.include NAND.sub
.include NOT.sub

.subckt AND node_a node_b node_out vdd gnd
X1 node_a node_b node_c vdd gnd NAND
X5 node_c node_out vdd gnd NOT
C1 node_out gnd 100f
.ends AND