.include AND.sub

.subckt AND_final node_a0 node_a1 node_a2 node_a3 node_b0 node_b1 node_b2 node_b3 node_c0 node_c1 node_c2 node_c3 vdd gnd

X1 node_a0 node_b0 node_c0 vdd gnd AND
X2 node_a1 node_b1 node_c1 vdd gnd AND
X3 node_a2 node_b2 node_c2 vdd gnd AND
X4 node_a3 node_b3 node_c3 vdd gnd AND

C1 node_out gnd 100f

.ends AND_final