* .include NAND.sub
* .include NOT.sub
.include AND.sub
.include OR.sub
.include XOR.sub

.subckt FA node_a node_b node_c_in node_cout node_sum vdd gnd

X1 node_a node_b node_c vdd gnd XOR
X2 node_c node_c_in node_sum vdd gnd XOR
X3 node_a node_b node_d vdd gnd AND
X4 node_c node_c_in node_e vdd gnd AND
X5 node_d node_e node_cout vdd gnd OR
C1 node_out gnd 100f

.ends FA