.include NOR.sub
.include NOT.sub

.subckt OR node_a node_b node_out vdd gnd

X1 node_a node_b node_c vdd gnd NOR
X2 node_c node_out vdd gnd NOT

C1 node_out gnd 100f

.ends OR